data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)COC)c([Si](C)(C)C)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(c(C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)cc(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(F)cc(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)cc(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)cc(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)cc(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2cc(F)cc(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)COC)c([Si](C)(C)C)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(c(OC)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CBr)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CBr)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CBr)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)CBr)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(Cl)cc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1ccc(Cl)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1ccc(Cl)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccc(Cl)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1ccc(Cl)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccc(Cl)cc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1ccc(Cl)cc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2cc(Cl)ccc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)ccc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(Cl)ccc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)ccc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(Cl)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1ccc(Cl)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1ccc(Cl)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1ccc(Cl)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1ccc(Cl)cc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)c(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(Cl)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Cl)c(Cl)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "Cc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "Cc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(C)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(C)cc1", "products": "Cc1ccc(C(F)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
